US09403816B2
4-Chloro-6-iodo-3-phenyl-2-(trifluoromethyl)quinoline
A solution of 6-iodo-3-phenyl-2-(trifluoromethyl)quinolin-4-ol (1.54 g, 3.71 mmol, Intermediate 20: step a) in phosphoryl trichloride (5 mL, 53.8 mmol) was heated at 110° C. for 1 hour 45 minutes, and then cooled to room temperature. Ice-water was added, and the mixture was basified at 4° C. with 50% aqueous NaOH and concentrated NH4OH until pH 9. The precipitated solid was filtered, washed with water and Et2O, and dried to provide the title compound. The filtrate was separated and the aqueous layer was extracted with CH2Cl2. The combined organic phases were dried (Na2SO4), concentrated, and purified by flash column chromatography (80 g silica gel column, 0-5% EtOAc in heptanes), affording a mixture of the title compound and des-iodo by-product, 4-chloro-3-phenyl-2-(trifluoromethyl)quinoline, in about 8:1 ratio as a thick oil, which solidified over night.

reactant | 6-iodo-3-phenyl-2-(trifluoromethyl)quinolin-4-ol | IC=1C=C2C(=C(C(=NC2=CC1)C(F)(F)F)C1=CC=CC=C1)O | C16H9F3INO
reactant | phosphoryl trichloride | 53.8 mmol, 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
reactant | NH4OH | [NH4+].[OH-]
product | 4-Chloro-6-iodo-3-phenyl-2-(trifluoromethyl)quinoline | ClC1=C(C(=NC2=CC=C(C=C12)I)C(F)(F)F)C1=CC=CC=C1 | C16H8ClF3IN
